US07071216B2
The mixture containing [(4-nitrophenyl)ethyl]benzylamine in methanol with catalytic amount of 10% Pd/C was hydrogenated until disappearance of yellow color to yield [(4-aminophenyl)ethyl]benzylamine. MS: MH+=226.

reactant | [(4-nitrophenyl)ethyl]benzylamine | [N+](=O)([O-])C1=CC=C(C=C1)CCNCC1=CC=CC=C1 | C15H16N2O2
solvent | methanol | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | [(4-aminophenyl)ethyl]benzylamine | NC1=CC=C(C=C1)CCNCC1=CC=CC=C1 | C15H18N2
